US04397856
A mixture of 9.3 g of ethyl 2-ethyl-4-hydroxy-8-trifluoromethyl-3-quinoline-carboxylate, 200 ml of carbon tetrachloride, 4.2 g of N-chlorosuccinimide and 0.45 g of azobis-isobutyronitrile was stirred at 65° C. maximum for 5 hours under a lamp and was then cooled to 20° C. and was filtered. The filtrate was evaporated to dryness and the residue was taken up in methylene chloride. The mixture was washed with water, dried and evaporated to dryness. The residue was empasted with petroleum ether and dried to obtain 9 g of ethyl 2-(1-chloroethyl)-4-hydroxy-8-trifluoromethyl-3-quinoline-carboxylate melting at 104° C.

reactant | ethyl 2-ethyl-4-hydroxy-8-trifluoromethyl-3-quinoline-carboxylate | 9.3 g | C(C)C1=NC2=C(C=CC=C2C(=C1C(=O)OCC)O)C(F)(F)F | C15H14F3NO3
reactant | N-chlorosuccinimide | 4.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | azobis-isobutyronitrile | 0.45 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 2-(1-chloroethyl)-4-hydroxy-8-trifluoromethyl-3-quinoline-carboxylate | 9 g | ClC(C)C1=NC2=C(C=CC=C2C(=C1C(=O)OCC)O)C(F)(F)F | C15H13ClF3NO3
